US06451814B1
tert-Butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane
To a solution of imidazole (12.97 g, 190 mmol) and 4-benzyloxy phenol (34.7 g, 173 mmol) in anhydrous dichloromethane (500 mL) was added drop-wise a solution of tert-butyldiphenylchlorosilane (50.0 g, 181 mmol) in dichloromethane (100 mL). The solution was stirred overnight at ambient temperature. The mixture was poured into water (500 mL) and the organic layer washed with saturated sodium hydrogen carbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent evaporated to dryness. The solid was crystallized from diethyl ether to provide the title compound (68.9 g, 142 mmol).

reactant | imidazole | 190 mmol, 12.97 g | N1C=NC=C1 | C3H4N2
reactant | 4-benzyloxy phenol | 173 mmol, 34.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | tert-butyldiphenylchlorosilane | 181 mmol, 50.0 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-Butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 142 mmol, 68.9 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
